US06593344B1
4-[4-(2-oxo-2,3-Dihydro-benzoimidazol-1-yl)-piperidin-1-yl]-butylamine
Batch size: 11.5 g (27.4 mmol) 2-{4-[4-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidin-1-yl]-butyl}-isoindolin-1,3-dione and 2.7 ml (55 mmol) hydrazine.hydrate in 60 ml ethanol. The accumulated crude product is further processed without further purification: Yield 5.1 g (64%).

reactant | 2-{4-[4-(2-oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidin-1-yl]-butyl}-isoindolin-1,3-dione | 27.4 mmol, 11.5 g | O=C1NC2=C(N1C1CCN(CC1)CCCCN1C(C3=CC=CC=C3C1=O)=O)C=CC=C2 | C24H26N4O3
reactant | hydrazine.hydrate | 55 mmol, 2.7 ml | NN.O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 4-[4-(2-oxo-2,3-Dihydro-benzoimidazol-1-yl)-piperidin-1-yl]-butylamine | O=C1NC2=C(N1C1CCN(CC1)CCCCN)C=CC=C2 | C16H24N4O
